US07842712B2
Step E: 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-5-phenyl-pyrimidin-2-ylamino]-1,2-dihydro-indazol-3-one
To ((2-Chloro-5-phenyl-pyrimidin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine (75 mg, 0.241 mmol), was added 6-Amino-3-oxo-2,3-dihydro-indazole-1-carboxylic acid tert-butyl ester (180 mg, 0.72 mmol) in n-butanol and the solution was heated to 95° C. in a sealed tube. After 12 hr, the solution was concentrated and the title compound was isolated by preparative HPLC as a white solid (5.2 mg, 5% yield) HNMR (500 MHz, MeOH d-6). 7.82-7.80 (2H, m), 7.59-7.50 (6H, m), 7.19-7.17 (1H, m), 6.08 (1H, s), 2.65 (1H, m), 0.91-0.89 (2H, m), 0.45 (2H, m); LCMS m/e: 1.9 min, 425.1 (M+H), 423.1 (M-H).

reactant | (2-Chloro-5-phenyl-pyrimidin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | 0.241 mmol, 75 mg | ClC1=NC=C(C(=N1)NC=1NN=C(C1)C1CC1)C1=CC=CC=C1 | C16H14ClN5
reactant | 6-Amino-3-oxo-2,3-dihydro-indazole-1-carboxylic acid tert-butyl ester | 0.72 mmol, 180 mg | C(C)(C)(C)OC(=O)N1NC(C2=CC=C(C=C12)N)=O | C12H15N3O3
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-[4-(5-Cyclopropyl-2H-pyrazol-3-ylamino)-5-phenyl-pyrimidin-2-ylamino]-1,2-dihydro-indazol-3-one | C1(CC1)C=1C=C(NN1)NC1=NC(=NC=C1C1=CC=CC=C1)NC1=CC=C2C(NNC2=C1)=O | C23H20N8O
